US07232821B2
e) 3-{2-[5-methylsulfonyl-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid
A solution of 3-{2-[5-methylsulfonyl-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid benzyl ester (30 mg, 0.059 mmol) in ethanol (5 ml) and 2M sodium hydroxide (1 ml) was left at room temperature for 20 hours then diluted with water, washed with ether and the aqueous phase separated, acidified with 2M hydrochloric acid and extracted with ether. The organic extract was dried (MgSO4), evaporated to dryness and the residue triturated with iso-hexane to yield the title compound as a white solid. (14 mg, 57%).

reactant | 3-{2-[5-methylsulfonyl-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid benzyl ester | 0.059 mmol, 30 mg | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)S(=O)(=O)C)OCC1=CC=CC=C1)=O | C33H30O5S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-{2-[5-methylsulfonyl-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1)OCC1=CC=CC=C1 | C26H24O5S
